US09315471B2
(S)-2-(4-chlorophenyl)-1-(4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-(isopropylamino)propan-1-one monohydrochloride
To a solution of tert-butyl ((S)-2-(4-chlorophenyl)-3-(4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl)(isopropyl)carbamate (50 g) in 1-propanol (128 g) was added HCl in 1-propanol (45.2 g, 5.5N). The solution was heated until complete deprotection. The solution was cooled to room temperature and then a solution of piperazine (7.3 g) in 1-propanol (36.5 g) was added dropwise. The resulting solid piperazine.HCl was filtered off and the filtrate was carbon treated, concentrated and solvent-switched to ethyl acetate. The resulting solid (S)-2-(4-chlorophenyl)-1-(4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-(isopropylamino)propan-1-one monohydrochloride was filtered and washed with ethyl acetate and dried under vacuum (Yield 22.9 g, 99.8% purity by LC).

reactant | tert-butyl ((S)-2-(4-chlorophenyl)-3-(4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl)(isopropyl)carbamate | 50 g | ClC1=CC=C(C=C1)[C@@H](CN(C(OC(C)(C)C)=O)C(C)C)C(=O)N1CCN(CC1)C=1C2=C(N=CN1)[C@@H](C[C@H]2C)O | C29H40ClN5O4
reactant | HCl | Cl | ClH
reactant | piperazine | 7.3 g | N1CCNCC1 | C4H10N2
solvent | 1-propanol | 128 g | C(CC)O | C3H8O
solvent | 1-propanol | 5.5N, 45.2 g | C(CC)O | C3H8O
solvent | 1-propanol | 36.5 g | C(CC)O | C3H8O
product | (S)-2-(4-chlorophenyl)-1-(4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-(isopropylamino)propan-1-one monohydrochloride | Cl.ClC1=CC=C(C=C1)[C@H](C(=O)N1CCN(CC1)C=1C2=C(N=CN1)[C@@H](C[C@H]2C)O)CNC(C)C | InChI=1S/C24H32ClN5O2.ClH/c1-15(2)26-13-19(17-4-6-18(25)7-5-17)24(32)30-10-8-29(9-11-30)23-21-16(3)12-20(31)22(21)27-14-28-23;/h4-7,14-16,19-20,26,31H,8-13H2,1-3H3;1H/t16-,19-,20-;/m1./s1
